US08183380B2
Step A: 9-(2,2,2-Trifluoro-ethyl)-9-aza-bicyclo[3.3.1]nonan-3-one oxime:
A mixture of 9-(2,2,2-trifluoro-ethyl)-9-aza-bicyclo[3.3.1]nonan-3-one (CAS no: 209054-63-7) (6.70 g, 30 mmol) in ethanol (100 mL) and hydroxylamine hydrochloride (2.23 g, 32 mmol) was refluxed for 6 h. The reaction mixture was evaporated totally, the residue extracted with dichloromethane and sodium carbonate solution, the organic layers dried over Na2SO4, filtered and the solvents evaporated to give the title compound as a light brown solid. (6.4 g, 89%); MS: m/e=237.1 (M+H+).

reactant | 9-(2,2,2-trifluoro-ethyl)-9-aza-bicyclo[3.3.1]nonan-3-one | FC(CN1C2CC(CC1CCC2)=O)(F)F | C10H14F3NO
reactant | hydroxylamine hydrochloride | 32 mmol, 2.23 g | Cl.NO
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 9-(2,2,2-Trifluoro-ethyl)-9-aza-bicyclo[3.3.1]nonan-3-one oxime | FC(CN1C2CC(CC1CCC2)=NO)(F)F | C10H15F3N2O
